US04621084
5-(8-Benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone (0.8 g) was prepared in substantially the same manner as that of Example 30 from 5-(2-bromopropionyl)-2-benzoxazolinone (2.1 g) and 2-amino-3-benzyloxypyridine (4.8 g). mp. 264°-265° C. (dec.).

reactant | 5-(2-bromopropionyl)-2-benzoxazolinone | 2.1 g | BrC(C(=O)C=1C=CC2=C(NC(O2)=O)C1)C | C10H8BrNO3
reactant | 2-amino-3-benzyloxypyridine | 4.8 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
product | 5-(8-Benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone | 0.8 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C=2C=CC1=C(NC(O1)=O)C2)C | C22H17N3O3
